US05459138
EXAMPLE 17: 3-METHYL-4H-PYRIDO[3,2-e][1,2,4]THIADIAZINE 1,1-DIOXIDE
1 g of 3-aminopyridine-2-sulfonamide (Preparation 1) and 1 g of p-toluenesulfonic acid are dissolved in 6 cm3 of ethyl orthoacetate. After 10 minutes at room temperature, the precipitate obtained is collected on a filter, washed with diethyl ether and dried. It is recrystallized from hot water.

reactant | 3-aminopyridine-2-sulfonamide | 1 g | NC=1C(=NC=CC1)S(=O)(=O)N | C5H7N3O2S
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl orthoacetate | 6 cm3 | C(C)(OCC)([O-])[O-]
product | 3-METHYL-4H-PYRIDO[3,2-e][1,2,4]THIADIAZINE 1,1-DIOXIDE | CC1=NS(C2=C(N1)C=CC=N2)(=O)=O | C7H7N3O2S
